US05932601
In substantially the same manner as in Reference Example 35, (E)-3-(4-benzyloxy-3,5-dimethoxyphenyl)-2-propen-1-ol was subjected to oxidation reaction with activated manganese dioxide to yield 4-benzyloxy-3,5-dimethoxycinnamaldehyde. The product was recrystallized from ethyl acetate-hexane to give colorless plates, m.p.114-115° C.

reactant | (E)-3-(4-benzyloxy-3,5-dimethoxyphenyl)-2-propen-1-ol | C(C1=CC=CC=C1)OC1=C(C=C(C=C1OC)/C=C/CO)OC | C18H20O4
catalyst | manganese dioxide | [O-2].[O-2].[Mn+4]
product | 4-benzyloxy-3,5-dimethoxycinnamaldehyde | C(C1=CC=CC=C1)OC1=C(C=C(C=CC=O)C=C1OC)OC | C18H18O4
